US07612114B2
6-{2-{[4-(2-Azepan-1-ylethoxy)benzyl]ethylamino}phenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from ethyl[2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine and 4-(2-azepan-1-ylethoxy)benzoic acid hydrochloride according to an analogous synthetic method to Example 152, [4-(2-azepan-1-ylethoxy)benzyl]ethyl[2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine (504 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (394 mg).

reactant | ethyl[2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | C(C)NC1=C(C=CC=C1)C1CC2=CC=C(C=C2CC1)OC | C19H23NO
reactant | 4-(2-azepan-1-ylethoxy)benzoic acid hydrochloride | Cl.N1(CCCCCC1)CCOC1=CC=C(C(=O)O)C=C1
reactant | [4-(2-azepan-1-ylethoxy)benzyl]ethyl[2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 504 mg | N1(CCCCCC1)CCOC1=CC=C(CN(C2=C(C=CC=C2)C2CC3=CC=C(C=C3CC2)OC)CC)C=C1 | C34H44N2O2
product | 6-{2-{[4-(2-Azepan-1-ylethoxy)benzyl]ethylamino}phenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 394 mg | N1(CCCCCC1)CCOC1=CC=C(CCCNC2=C(C=CC=C2)C2CC=3C=CC(=CC3CC2)O)C=C1 | C33H42N2O2
